US05237070
A mixture of 5.51 g (0.25 mole) of 2,6-di-tertiary-butyl-p-benzoquinone, 4.54 g (0.027 mole) of 3-(4-aminophenyl)propionic acid, 50 ml of tetrahydrofuran and 0.25 ml of boron trifluoride etherate was heated on a steam cone under a slow stream of nitrogen for two hours. The resulting solid was triturated with hexane, collected, rinsed with hexane and recrystallized from a mixture of ethyl acetate and hexane to give 5.1 g yellow 3-[4-(2,6-di-tertiary-butylcyclohexadienon-4-ylideneamino)phenyl]propionic acid, m.p. 165°-167° C. Analysis: Calculated for C23H29NO3 : %C, 75.2; %H, 8.0; %N, 3.8; Found %C, 74.8; %H, 7.9; %N, 3.7.

reactant | 2,6-di-tertiary-butyl-p-benzoquinone | 0.25 mole, 5.51 g | C(C)(C)(C)C=1C(C(=CC(C1)=O)C(C)(C)C)=O | C14H20O2
reactant | 3-(4-aminophenyl)propionic acid | 0.027 mole, 4.54 g | NC1=CC=C(C=C1)CCC(=O)O | C9H11NO2
reactant | boron trifluoride etherate | 0.25 ml | B(F)(F)F.CCOCC
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-[4-(2,6-di-tertiary-butylcyclohexadienon-4-ylideneamino)phenyl]propionic acid | 5.1 g | C(C)(C)(C)C=1C(C(=CC(C1)=NC1=CC=C(C=C1)CCC(=O)O)C(C)(C)C)=O | C23H29NO3
